US07888374B2
(4-Aminomethyl-benzyl)-(4-methanesulfonyl-phenyl)-amine
A solution of tert-butyl N-(4-formylbenzyl)carbamate (45 mg, 0.2 mmol) and 4-methanesulfonylaniline hydrochloride (41 mg, 0.2 mmol) in 1 mL of methanol was stirred at room temperature for 30 min, then 0.15 mL of acetic acid was added, followed by 16 mg (0.24 mmol) of sodium cyanoborohydride. The reaction was complete in 5 h. The mixture was treated with saturated sodium bicarbonate solution until pH=8, then extracted with ethyl acetate twice. The combined organics were dried over MgSO4, filtered, and concentrated. The solid was dissolved in 1 mL of methylene chloride, followed by the addition of 0.1 mL of trifluoroacetic acid. The mixture was stirred at room temperature overnight, then concentrated to afford the titled compound as an oil.

reactant | tert-butyl N-(4-formylbenzyl)carbamate | 0.2 mmol, 45 mg | C(=O)C1=CC=C(CNC(OC(C)(C)C)=O)C=C1 | C13H17NO3
reactant | 4-methanesulfonylaniline hydrochloride | 0.2 mmol, 41 mg | Cl.CS(=O)(=O)C1=CC=C(N)C=C1
reactant | sodium cyanoborohydride | 0.24 mmol, 16 mg | C(#N)[BH3-].[Na+]
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | methanol | 1 mL | CO | CH4O
solvent | acetic acid | 0.15 mL | C(C)(=O)O | C2H4O2
product | (4-Aminomethyl-benzyl)-(4-methanesulfonyl-phenyl)-amine | NCC1=CC=C(CNC2=CC=C(C=C2)S(=O)(=O)C)C=C1 | C15H18N2O2S
